US07906516B2
6.16 g (52.6 mmol) of N-methylmorpholine N-oxide (NMO) and 193.7 mg of potassium osmate dihydrate are added successively at room temperature to the solution of 5 g (17.52 mmol) of 1-tert-butyl 2-methyl (2R,4R)-4-allyloxypyrrolidine-1,2-dicarboxylate in 60 ml of water, 25 ml of acetone and 10 ml of tert-butanol, and the mixture is stirred for 48 hours. 6.6 g (52.6 mmol) of sodium sulfite are subsequently added to the reaction mixture, which is stirred at room temperature for a further hour. The reaction mixture is then evaporated under reduced pressure, the residue is taken up in 50 ml of water, and the aqueous solution is extracted twice with 20 ml of ethyl acetate each time. Drying of the combined organic phases over sodium sulfate and stripping-off of the solvent gives 4.7 g of 1-tert-butyl 2-methyl (2R,4R)-4-(2,3-dihydroxypropoxy)pyrrolidine-1,2-dicarboxylate as a yellowish oil; ESI 320. 1.06 g of lithium hydroxide are added to the solution of 4.6 g of this methyl ester in 40 ml of tetrahydrofuran, 10 ml of methanol and 10 ml of water, and the reaction mixture is stirred at room temperature for 12 hours. The reaction mixture is subsequently evaporated under reduced pressure, 10 ml of saturated citric acid solution are added to the aqueous solution which remains, and the mixture is extracted three times with 20 ml of ethyl acetate each time. Drying of the combined organic phases over sodium sulfate and stripping-off of the solvent gives 4.3 g of tert-butyl (2R,4R)-4-(2,3-dihydroxypropoxy)pyrrolidine-1,2-dicarboxylate as a yellow powder; ESI 306. Analogously to Example 7, this acid gives the compound 1-N-[(4-chlorophenyl)]-2-N-{[4-(3-oxomorpholin-4-yl)phenyl]}(2R,4R)-4-(2,3-dihydroxypropoxy)pyrrolidine-1,2-dicarboxamide; ESI 533.

reactant | N-methylmorpholine N-oxide | 52.6 mmol, 6.16 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | 1-tert-butyl 2-methyl (2R,4R)-4-allyloxypyrrolidine-1,2-dicarboxylate | 17.52 mmol, 5 g | C(C=C)O[C@@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C14H23NO5
reactant | sodium sulfite | 52.6 mmol, 6.6 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 60 ml | O | H2O
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | tert-butanol | 10 ml | C(C)(C)(C)O | C4H10O
product | 1-tert-butyl 2-methyl (2R,4R)-4-(2,3-dihydroxypropoxy)pyrrolidine-1,2-dicarboxylate | 4.7 g | OC(CO[C@@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC)CO | C14H25NO7
